US06331538B1
1-(4-Hydroxyphenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Using the General Method 6B, the reaction of 1 M TFA solution of B(TFA)3 (0.5 mL, 0.44 mmol) with 1-(4-hydroxyphenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example K-1, 0.05 g, 0.11 mmol) afforded 0.038 g of the title compound as a solid, mp 264-268° C. (decomp.).

reactant | TFA | 1 M | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-(4-hydroxyphenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.11 mmol, 0.05 g | OC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)OCC1=CC=CC=C1)=O | C25H22FN3O4
product | 1-(4-Hydroxyphenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.038 g | OC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C18H16FN3O4
